US04267176
Conc. hydrochloric acid (0.31 ml.) was added to a solution of 7-[2-allyloxyimino-2-(6-formamidopyridin-2-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid (syn isomer) (1.75 g.) in methanol (7 ml.), and the mixture was stirred at ambient temperature for 30 minutes. The methanol was removed by distillation from the reaction mixture, and the remaining aqueous solution was diluted with water (80 ml.) and then adjusted to pH 2-3 with an aqueous solution of sodium bicarbonate. The aqueous solution was subjected to column chromatography on a macroporous, non-ionic adsorption resin "Diaion HP-20" (Trade Mark, manufactured by Mitsubishi Chemical Industries Ltd.) (50 ml.). After the column was washed with water (1 l.), elution was carried out with 50% aqueous methanol (1 l.) and fractions containing the desired compound were collected. The methanol was removed by distillation from the combined fractions under reduced pressure and the resultant aqueous solution was lyophilized to give 7-[2-allyloxyimino-2-(6-aminopyridin-2-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid (syn isomer) (1.13 g.), mp. 149°-151° C. (dec.).

reactant | hydrochloric acid | 0.31 ml | Cl | ClH
reactant | 7-[2-allyloxyimino-2-(6-formamidopyridin-2-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 1.75 g | C(C=C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O)C1=NC(=CC=C1)NC=O | C21H21N9O6S2
solvent | methanol | 7 ml | CO | CH4O
product | 7-[2-allyloxyimino-2-(6-aminopyridin-2-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 1.13 g | C(C=C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O)C1=NC(=CC=C1)N | C20H21N9O5S2
